US04711895
128 mg (5.3 mmoles) of magnesium was taken, and 4 ml of dry tetrahydrofuran was added. Then, a small amount of a solution of 1.37 g of 1-bromo-3-(3,4-dimethoxyphenyl)propane in 10 ml of dry tetrahydrofuran was added. The mixture was heated. After the initiation of the reaction, a solution of 1-bromo-3-(3,4-dimethoxyphenyl)propane in tetrahydrofuran was added little by little, and the solution was refluxed for 1.5 hours. The resulting reagent was cooled to -78° C., and a cooled solution of 1.305 g of 3-chloro-4-t-butyldimethylsilyloxy-2-cyclopentenone in dry tetrahydrofuran was added. The mixture was stirred at -78° C. for 1.5 hours. A saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After filtration and concentration, the residue was chromatographed on a silica gel column to give 600 mg (yield 27%) of 4-t-butyldimethylsilyloxy-3-chloro-1-(3,4-dimethoxyphenylpropyl)-1-hydroxy-2-cyclopentene.

reactant | magnesium | 5.3 mmoles, 128 mg | [Mg] | Mg
reactant | 1-bromo-3-(3,4-dimethoxyphenyl)propane | 1.37 g | BrCCCC1=CC(=C(C=C1)OC)OC | C11H15BrO2
reactant | 3-chloro-4-t-butyldimethylsilyloxy-2-cyclopentenone | 1.305 g | ClC1=CC(CC1O[Si](C)(C)C(C)(C)C)=O | C11H19ClO2Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-t-butyldimethylsilyloxy-3-chloro-1-(3,4-dimethoxyphenylpropyl)-1-hydroxy-2-cyclopentene | 600 mg, yield 27% | [Si](C)(C)(C(C)(C)C)OC1C(=CC(C1)(O)CCCC1=CC(=C(C=C1)OC)OC)Cl | C22H35ClO4Si
